US06451834B1
A solution of 5-methoxyindan-1-one (5.46 g) and tert-butyl carbazate (4.45 g) in ethanol (100 ml) and glacial acetic acid (1 drop) was stirred and boiled under reflux for 2 hours. The volume was reduced by half under reduced pressure and the solid which crystallized was collected by filtration to give 5-methoxyindan-1-one tert-butyloxycarbonylhydrazone.

reactant | 5-methoxyindan-1-one | 5.46 g | COC=1C=C2CCC(C2=CC1)=O | C10H10O2
reactant | tert-butyl carbazate | 4.45 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | 5-methoxyindan-1-one tert-butyloxycarbonylhydrazone | C(C)(C)(C)OC(=O)NN=C1CCC2=CC(=CC=C12)OC | C15H20N2O3
